US08871766B2
A) 1-(5-methyl-2-(pyridin-4-yl)benzoyl)piperidin-4-one
A suspension of 5-methyl-2-(pyridin-4-yl)benzoic acid hydrochloride (2.0 g), piperidin-4-one hydrochloride (1.2 g), DMTMM (3.3 g) and N-methylmorpholine (2.6 mL) in DMF (30 mL) was stirred at room temperature for 5 hr, and then overnight at 100° C. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.73 g).

reactant | 5-methyl-2-(pyridin-4-yl)benzoic acid hydrochloride | 2.0 g | Cl.CC=1C=CC(=C(C(=O)O)C1)C1=CC=NC=C1
reactant | piperidin-4-one hydrochloride | 1.2 g | Cl.N1CCC(CC1)=O
reactant | DMTMM | 3.3 g | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | N-methylmorpholine | 2.6 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(5-methyl-2-(pyridin-4-yl)benzoyl)piperidin-4-one | 0.73 g | CC=1C=CC(=C(C(=O)N2CCC(CC2)=O)C1)C1=CC=NC=C1 | C18H18N2O2
